US04535183
4-Hydroxy-2-methylbenzofuran (2/3 g, 14.4 M), methyl 2-bromomethylbenzoate (3.29 g, 14.4 mM), anhydrous potassium carbonate (2.135 g), sodium iodide (87 mg) and methanol (20 ml) were reacted together in an analogous manner to that described in Example 5(A) to give methyl 2-(2-methyl-4-benzofuranyloxymethyl)benzoate, m.p. 93°-95° C. (Found: C, 72.74; H, 5.26. C18H16O4 required C, 72.96; H, 5.44%).

reactant | 4-Hydroxy-2-methylbenzofuran | 14.4 M, 2/3 g | OC1=CC=CC2=C1C=C(O2)C | C9H8O2
reactant | methyl 2-bromomethylbenzoate | 14.4 mM, 3.29 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 2.135 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 87 mg | [I-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | methyl 2-(2-methyl-4-benzofuranyloxymethyl)benzoate | CC=1OC2=C(C1)C(=CC=C2)OCC2=C(C(=O)OC)C=CC=C2 | C18H16O4
